US06335459B1
2M Aqueous sodium bicarbonate (10 mL) was added to a suspension of 2-bromo-3-methoxybenzoic acid ethyl ester (2.06 g, 7.7 mmol), benzeneboronic acid (1.11 g), and tetrakis(triphenylphosphine)palladium(0) (0.30 g) in toluene (35 mL) under a nitrogen atmosphere. The mixture was stirred at 80° C. for 2 hours, poured into water, and extracted with diethyl ether. The organic layer was evaporated, and the residue was chromatographed, eluting with hexane/acetone (3:1) to give a semisolid oil. Recrystallization from diethyl ether/hexane gave 3-methoxy-2-phenylbenzoic acid ethyl ester as colorless crystals (0.69 g, 34%).

reactant | sodium bicarbonate | 2M, 10 mL | C([O-])(O)=O.[Na+]
reactant | 2-bromo-3-methoxybenzoic acid ethyl ester | 7.7 mmol, 2.06 g | C(C)OC(C1=C(C(=CC=C1)OC)Br)=O | C10H11BrO3
reactant | benzeneboronic acid | 1.11 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | water | O | H2O
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.30 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-methoxy-2-phenylbenzoic acid ethyl ester | 0.69 g, 34% | C(C)OC(C1=C(C(=CC=C1)OC)C1=CC=CC=C1)=O | C16H16O3
